US07678815B2
A solution of 2-methyl-pyridin-4-ylamine (0.623 g, 5.77 mmol) in 20 ml dry dioxane was treated at 0° C. with trimethylaluminium (2M in hexane, 2.88 ml, 5.77 mmol). The mixture was stirred at room temperature for 1 h. 5-tert-Butoxycarbonylamino-2-methyl-thiazole-4-carboxylic acid ethyl ester (0.55 g, 1.92 mmol) was added and the reaction mixture was refluxed for 4 h. 1 ml water and 2 g sodium sulfate were sequentially added and filtered. The filtrate was evaporated and the residue purified by flash chromatography on silica gel with heptane/ethyl acetate 100:0→0:100 to yield [2-methyl-4-(2-methyl-pyridin-4-ylcarbamoyl)-thiazol-5-yl]-carbamic acid tert-butyl ester (0.555 g, 83%) as a light yellow solid, MS (ISP): m/e=349.5 (M+H+).

reactant | 2-methyl-pyridin-4-ylamine | 5.77 mmol, 0.623 g | CC1=NC=CC(=C1)N | C6H8N2
reactant | trimethylaluminium | 5.77 mmol, 2M, 2.88 ml | C[Al](C)C
reactant | 5-tert-Butoxycarbonylamino-2-methyl-thiazole-4-carboxylic acid ethyl ester | 1.92 mmol, 0.55 g | C(C)OC(=O)C=1N=C(SC1NC(=O)OC(C)(C)C)C | C12H18N2O4S
reactant | sodium sulfate | 2 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | 1 ml | O | H2O
product | [2-methyl-4-(2-methyl-pyridin-4-ylcarbamoyl)-thiazol-5-yl]-carbamic acid tert-butyl ester | 0.555 g, 83% | C(C)(C)(C)OC(NC1=C(N=C(S1)C)C(NC1=CC(=NC=C1)C)=O)=O | C16H20N4O3S
